US05102881
Step I Preparation of 4-(4-chlorophenyl)-3-butene-1-ol
To a suspension of 3-((2-methoxy)-2-propoxy)propyl)triphenyl phosphonium bromide (4.42 g, 10 mmoles) in THF (100 mL) was added n-BuLi (6 mL of 1.6M) at -78°. The reaction mixture was stirred at -78° for 30 min. 4-Chlorobenzaldehyde (1.4 g, 10 mM) was added and the reaction was warmed to RT. The reaction mixture was quenched with buffer and extracted with ethyl acetate. After evaporation of the ethyl acetate, the crude residue was dissolved in 25 mL THF and 5 mL of AcOH plus 5 mL H2O was added. The mixture was stirred for 2 hours at RT and evaporated. The residue was extracted with ethyl acetate, and the ethyl acetate evaporated. Flash chromatography of the residue using 25% ethyl acetate/hexane afforded the title compound as a mixture of cis and trans isomers.

reactant | triphenyl phosphonium bromide | 10 mmoles, 4.42 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 1.6M, 6 mL | [Li]CCCC
reactant | 4-Chlorobenzaldehyde | 10 mM, 1.4 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(4-chlorophenyl)-3-butene-1-ol | ClC1=CC=C(C=C1)C=CCCO | C10H11ClO
